US06831164B2
2,3,4,6-Tetra-O-benzoyl-1-O-carboxymethyl-mannopyranose
A mixture that consists of 59.66 g (100 mmol) of 2,3,4,6-tetra-O-benzoyl-mannopyranose, 1.7 g (5 mmol) of tetrabutylammonium hydrogen sulfate and 63.59 g (600 mmol) of fine-powder sodium carbonate in 350 ml of 1,2-dimethoxyethane is cooled to 0° C. At 0° C., 34.36 g (150 mmol) of bromoacetic acid benzyl ester is added in drops over 10 minutes while being stirred vigorously. It is stirred for one hour at 0° C. 250 ml of MTB (methyl-tert-butyl ether) is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is dissolved in 500 ml of ethanol. 5 g of palladium (10%) on activated carbon is added thereto and hydrogenated until hydrogen absorption is completed. Then, catalyst is filtered out, rewashed with ethanol, and the combined solutions are evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/n=hexane/ethanol/acetic acid=20:5:3:0.5). The product-containing fractions are concentrated by evaporation, dissolved in 400 ml of ethyl acetate and shaken out three times with 200 ml of water. Then, the organic phase is separated and evaporated to the dry state in a vacuum.

reactant | 2,3,4,6-tetra-O-benzoyl-mannopyranose | 100 mmol, 59.66 g | C(C1=CC=CC=C1)(=O)O[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C34H28O10
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromoacetic acid benzyl ester | 150 mmol, 34.36 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
reactant | MTB | 250 ml | COC(C)(C)C | C5H12O
catalyst | tetrabutylammonium hydrogen sulfate | 5 mmol, 1.7 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 1,2-dimethoxyethane | 350 ml | COCCOC | C4H10O2
product | 2,3,4,6-Tetra-O-benzoyl-1-O-carboxymethyl-mannopyranose | C(C1=CC=CC=C1)(=O)O[C@@H]1C(OCC(=O)O)O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C36H30O12
